US07071201B2
Example 136: Synthesis of 1-[1-(4-fluorophenethyl)piperdin-4-yl]-6-hydroxymethylindoline
A 2.5 M solution (100 ml) of n-butyllithium in hexane was added dropwise at −78° C. into a solution (2 l) of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-bromoindoline (80 g) in tetrahydrofuran over 15 min. After 10 min, dimethylformamide (23.2 ml) was added thereto and the resultant mixture was warmed to room temperature. Next, a saturated aqueous solution of ammonium chloride (400 ml) and ethyl acetate (1 l) were added thereto and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the resulting reside were added ethanol (240 ml) and sodium borohydride (7.6 g) and the resultant mixture was stirred at room temperature for 1 hr. After adding ice water (480 ml) to the reaction solution, the resulting crystals were collected by filtration, washed with water and air-dried at 50° C. over day and night to give the title compound (about 71 g) as a yellow powder. A portion of this crude product was purified by silica gel column chromatography (ethyl acetate/methanol system) followed by conversion into a hydrochloride in a conventional manner to give the hydrochloride of the title compound as a pale purple powder.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-bromoindoline | 2 l, 80 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)Br)C=C1 | C21H24BrFN2
reactant | dimethylformamide | 23.2 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
product | 1-[1-(4-fluorophenethyl)piperdin-4-yl]-6-hydroxymethylindoline | about 71 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CO)C=C1 | C22H27FN2O
